US09428500B2
A solution of [4-bromo-2,5-bis(methyloxy)phenyl](phenyl)methanone (400 mg, 1.245 mmol) in DCM (2.1 mL, C=0.6M) was added dropwise to a stirred solution of 1 M BCl3 in DCM (1.55 mL, 1.25 eq) while maintaining the reaction temperature at 0° C. The reaction mixture was stirred at 0° C. for 35 min and then quenched by slow addition of MeOH (0.7 mL) over 15 min at 10° C. Then, 2N HCl solution (1.4 mL) was added at r.t. over 15 min. The layers were separated, and the organic phase was concentrated to dryness by rotavap. The yellow oily product was purified by silica gel column flash chromatography (elution in pure DCM) to afford [4-bromo-2-hydroxy-5-(methyloxy)phenyl](phenyl)methanone in 90% yield (344 mg) as a yellow solid. 1H NMR (300 MHz, CDCl3) δ 11.67 (s, 1H), 7.67 (d, J=8.5 Hz, 2H), 7.60 (t, J=7.3 Hz, 1H), 7.51 (t, J=7.2 Hz, 2H), 7.29 (s, 1H), 7.02 (s, 1H), 3.70 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 200.4 (C═O), 157.5 (C), 148.3 (C), 137.6 (C), 132.3 (CH), 129.0 (CH), 128.5 (CH), 123.2 (CH), 121.9 (C), 117.8 (C), 114.7 (CH), 56.8 (OCH3); MS (ESI) m/z: 307.4, 309.1 [M+H, 79Br, 81Br]+; 229.1, 231.0 [M-Ph, 79Br, 81Br]1.

reactant | [4-bromo-2,5-bis(methyloxy)phenyl](phenyl)methanone | 1.245 mmol, 400 mg | BrC1=CC(=C(C=C1OC)C(=O)C1=CC=CC=C1)OC | C15H13BrO3
reactant | BCl3 | 1 M | B(Cl)(Cl)Cl | BCl3
solvent | DCM | 0.6M, 2.1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1.55 mL, 1.25 eq | C(Cl)Cl | CH2Cl2
product | [4-bromo-2-hydroxy-5-(methyloxy)phenyl](phenyl)methanone | 90% yield | BrC1=CC(=C(C=C1OC)C(=O)C1=CC=CC=C1)O | C14H11BrO3
